US03947408
A mixture of 5.0 g. of 1,2,3,5,10,11a-hexahydro-10- methyl-7-nitro-11H-pyrrolo[2,1-c] [1,4]benzodiazepin-11-one, 200 ml. of ethanol and 1.0 g. of 10% palladium-on-carbon catalyst is shaken in a Parr hydrogenator under about 3 atmospheres of hydrogen pressure until the theoretical amount of hydrogen is absorbed. The catalyst is filtered off and the mother liquor is concentrated to remove the solvent. The residue is purified by partition chromatography on a diatomaceous earth column using a heptane/methyl cellosolve solvent system to yield pure 7 -amino-1,2,3,5,10,11a-hexahydro-10-methyl-11H-pyrrolo[2,1-c]- [1,4]benzodiazepin-11-one.

reactant | 1,2,3,5,10,11a-hexahydro-10- methyl-7-nitro-11H-pyrrolo[2,1-c] [1,4]benzodiazepin-11-one | CN1C(C2N(CC3=C1C=CC(=C3)[N+](=O)[O-])CCC2)=O | C13H15N3O3
reactant | hydrogen | [H][H] | H2
catalyst | palladium-on-carbon | [Pd] | Pd
solvent | ethanol | C(C)O | C2H6O
product | 7 -amino-1,2,3,5,10,11a-hexahydro-10-methyl-11H-pyrrolo[2,1-c]- [1,4]benzodiazepin-11-one | NC=1C=CC2=C(CN3C(C(N2C)=O)CCC3)C1 | C13H17N3O
